US08835648B2
{(S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidin-3-yl}-piperazin-1-yl-methanone hydrochloride
Method A—Step b To a mixture of 4-{(S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-3-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester (0.04 g, 0.08 mmol) in dichloromethane (0.5 mL), 2M HCl in Et2O (2 mL) was added and the resulting mixture was stirred overnight at room temperature. Solvent was removed to get 0.04 g of the title compound as hydrochloride salt with quantitative yield.

reactant | 4-{(S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-3-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.08 mmol, 0.04 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@@H]1CN(CCC1)C1=CC(=CC=C1)C1=NC2=C(N1C)C=CC=C2 | C29H37N5O3
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | HCl | 2M | Cl | ClH
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | {(S)-1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidin-3-yl}-piperazin-1-yl-methanone hydrochloride | 0.04 g, quantitative yield | Cl.CN1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2)N2C[C@H](CCC2)C(=O)N2CCNCC2 | InChI=1S/C24H29N5O.ClH/c1-27-22-10-3-2-9-21(22)26-23(27)18-6-4-8-20(16-18)29-13-5-7-19(17-29)24(30)28-14-11-25-12-15-28;/h2-4,6,8-10,16,19,25H,5,7,11-15,17H2,1H3;1H/t19-;/m0./s1
